US04324915
2,2-Dimethyl-3-(2-oxopropyl)cyclopropanecarbaldehyde
To a solution 2.4 g of 1-(3-(2-(dimethylamino)ethenyl)-2,2-dimethylcyclopropyl)-2-propanone, the product of Embodiment I, in 50 ml of methylene chloride was added 0.6 g of ozone over 20 min at -80° C. The resulting mixture was purged with air and 1.5 g of triethylamine was added dropwise at -30° C. The resulting mixture, after stirring and warming to room temperature, had a negative test to starch iodide paper. The reaction mixture was poured into 25 ml 1 N hydrochloride acid solution. The resulting mixture separated into two phases and the methylene chloride phase was washed with water, dried with MgSO4, filtered and stripped to yield 1.6 g of the desired product as an oil.

reactant | 1-(3-(2-(dimethylamino)ethenyl)-2,2-dimethylcyclopropyl)-2-propanone | 2.4 g | CN(C=CC1C(C1CC(C)=O)(C)C)C | C12H21NO
reactant | ozone | 0.6 g | O=[O+][O-] | O3
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,2-Dimethyl-3-(2-oxopropyl)cyclopropanecarbaldehyde | 1.6 g | CC1(C(C1CC(C)=O)C=O)C | C9H14O2
